US07491684B2
Preparation of 1-cyclohexyl-2-methyl-2-penten-1-ol
To a dry 2 liter multi-neck round bottom flask fitted with an air stirrer, nitrogen inlet condenser and an addition funnel 800 ml of 2 M of cyclohexyl magnesium chloride was added and stirred. The flask was cooled to 10° C. 146 g of 99% 2-methyl-2-pentenal was added over the next 135 minutes. The cooling was removed. The first sample was taken 50 minutes later at 13° C. The second sample was taken 35 minutes later at 18° C. 75 minutes later the reaction mixture was quenched with 1000 ml of 20% HAc with cooling. The layers were allowed to settle and the organic layer extracted with 100 ml of toluene. The NMR spectrum of the 1-cyclohexyl-2-methyl-2-penten-1-ol is as follows . . . 0.7-0.9 ppm (q, 1H); 0.9-1.0 ppm (t, 4H); 1.1-1.3 ppm (m, 3H); 1.6 ppm (s, 3H); 1.6-1.8 ppm (m, 4H); 2.0-2.1 ppm (m, 3H); 3.7 ppm (d, 1H); 5.4 ppm (t, 1H)

reactant | 2-methyl-2-pentenal | 146 g | CC(C=O)=CCC | C6H10O
reactant | cyclohexyl magnesium chloride | 2 M, 800 ml | C1(CCCCC1)[Mg]Cl
product | 1-cyclohexyl-2-methyl-2-penten-1-ol | C1(CCCCC1)C(C(=CCC)C)O | C12H22O
